US05891901
A mixture of 6-methylsulfanyl-1H-indole-2-carboxylic acid (9.6 g, 46 mmol), Cu powder (2.1 g, 33 mmol) and quinoline (100 ml) was heated at 215° C. for 3 hours. The mixture was cooled to room temperature, filtered through celite, and the filtrate diluted with H2O (500 mL). The cooled mixture was acidified with concentrated HCl (pH=1), and extracted with EtOAc. The organic fraction was washed with saturated NaCl solution, dried over MgSO4, filtered and evaporated to give of 6-Methylsulfanyl-1H-indole (6.8 g, 90%) after purification by flash column chromatography.

reactant | 6-methylsulfanyl-1H-indole-2-carboxylic acid | 46 mmol, 9.6 g | CSC1=CC=C2C=C(NC2=C1)C(=O)O | C10H9NO2S
solvent | quinoline | 100 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 6-Methylsulfanyl-1H-indole | 6.8 g, 90% | CSC1=CC=C2C=CNC2=C1 | C9H9NS
